US07037909B2
2-Chloro-4-(2-hydroxyimino-acetylamino)-benzoic acid
To a solution of chloral hydrate (1.0 g, 6.00 mmol; Spectrum Quality Products, Inc., New Brunswick, N.J.) and water (80 mL) was added sodium sulfate (5 g), 4-amino-2-chloro-benzoic acid (855 mg, 4.98 mmol; Acros), concentrated aq. HCl (5 mL) and hydroxylamine hydrochloride (1.15 g, 16.5 mmol; Aldrich). It was refluxed for 20 minutes. The mixture was cooled to rt, the precipitate was filtered and washed with water. The title compound (1.08 g, 90%) was obtained as a white solid.

reactant | chloral hydrate | 6.00 mmol, 1.0 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-amino-2-chloro-benzoic acid | 4.98 mmol, 855 mg | NC1=CC(=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | HCl | 5 mL | Cl | ClH
reactant | hydroxylamine hydrochloride | 16.5 mmol, 1.15 g | Cl.NO
solvent | water | 80 mL | O | H2O
product | 2-Chloro-4-(2-hydroxyimino-acetylamino)-benzoic acid | 1.08 g, 90% | ClC1=C(C(=O)O)C=CC(=C1)NC(C=NO)=O | C9H7ClN2O4
